US04754043
7-(2-quinolinylmethoxy)-2-naphthalenamine
To a suspension of 40.0 g 7-amino-2-naphthol hydrochloride (205 mmol) in 250 mL methanol under nitrogen is added 451 mL of 0.91N sodium methoxide (410 mmol) in methanol. After 1 hour of stirring, the solvent is removed and the residue is taken up in 500 mL dimethylformamide and cooled to 10° C. under nitrogen. A solution of 36.3 g (2-chloromethyl)quinoline (205 mmol) in 200 mL dimethylformamide is added. After stirring overnight at ambient temperature, the reaction is stripped of solvent, water is added and the precipitate is filtered off, dried and recrystallized from toluene to afford 31.1 g (62%) of white crystals, which is further purified by filtration through Florisil. Recrystallization from toluene affords white crystals, m.p. 164.5°-166.0° C.

reactant | 7-amino-2-naphthol hydrochloride | 205 mmol, 40.0 g | Cl.NC1=CC=C2C=CC(=CC2=C1)O
reactant | sodium methoxide | 410 mmol, 0.91N, 451 mL | C[O-].[Na+]
reactant | water | O | H2O
reactant | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | methanol | 250 mL | CO | CH4O
product | 7-(2-quinolinylmethoxy)-2-naphthalenamine | 31.1 g, 62% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C2C=CC(=CC2=C1)N | C20H16N2O
